US08426659B2
Polymerizations of 1-hexene/1-octene.
1-octene and 1-hexene were added as indicated in the table below, and isohexane was then added such that the total volume of the solution was 5.0 ml. TNOAL was used as scavenger at a concentration of 1 M. A solution of dimethylaniliniumtetrakis (perfluoronaphthyl)borate in toluene was added first, followed by a solution of the metallocene, such that the activator to metallocene ratio was 1:1. The cells were heated to 85° C. and the reaction allowed to proceed for 1 hour. The reaction was quenched with air and unreacted monomers were removed in vacuo. Analysis of some of the cell products are listed in Table 1.

reactant | 1-octene | C=CCCCCCC | C8H16
reactant | 1-hexene | C=CCCCC | C6H12
reactant | isohexane | CCCC(C)C | C6H14
reactant | dimethylaniliniumtetrakis (perfluoronaphthyl)borate | FC1=C(C2=C(C(=C(C(=C2C(=C1F)F)F)F)F)F)[B-](C1=C(C(=C(C2=C(C(=C(C(=C12)F)F)F)F)F)F)F)(C1=C(C(=C(C2=C(C(=C(C(=C12)F)F)F)F)F)F)F)C1=C(C(=C(C2=C(C(=C(C(=C12)F)F)F)F)F)F)F.C[NH+](C1=CC=CC=C1)C
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-hexene 1-octene | C=CCCCC.C=CCCCCCC | InChI=1S/C8H16.C6H12/c1-3-5-7-8-6-4-2;1-3-5-6-4-2/h3H,1,4-8H2,2H3;3H,1,4-6H2,2H3
